US03939266
7-Trifluoromethylsulfonylacetamido-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid
Using the procedure in Example 1 trifluoromethylsulfonylacetic acid is esterified with N-hydroxysuccinimide and then is reacted with 7-amino-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid using the procedure of Example 3 to give the title compound.

reactant | trifluoromethylsulfonylacetic acid | FC(S(=O)(=O)CC(=O)O)(F)F | C3H3F3O4S
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | 7-amino-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O | C11H12N4O3S3
product | 7-Trifluoromethylsulfonylacetamido-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | FC(S(=O)(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O)(F)F | C14H13F3N4O6S4
